US06015774
A mixture of 22.6 g of 2,4-dichloro-5-iodo-1-methoxybenzene, 7.61 g of sodium formate, 1.05 g of dichlorobis(triphenylphosphine) palladium, and 60 ml of N,N-dimethylformamide was stirred, while bubbling carbon monoxide at 90° to 100° C. over 12 hours. After completion of the reaction, the reaction mixture was returned to room temperature, followed by dilution with diluted hydrochloride, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried with anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography, which afforded 6.75 g (yield, 44%) of 2,4-dichloro-5-methoxybenzaldehyde.

reactant | 2,4-dichloro-5-iodo-1-methoxybenzene | 22.6 g | ClC1=C(C=C(C(=C1)Cl)I)OC | C7H5Cl2IO
reactant | sodium formate | 7.61 g | C(=O)[O-].[Na+]
reactant | hydrochloride | Cl | ClH
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 2,4-dichloro-5-methoxybenzaldehyde | 6.75 g, 44% | ClC1=C(C=O)C=C(C(=C1)Cl)OC | C8H6Cl2O2
